US05658491
Preparation of 5-Octy1-2-[4-(6-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)hexyloxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 6-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromohexane (85 g, 0.155 mol; prepared from 1,6-dibromohexane (500 g, 0.7 mol), 10 2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethanol (150 g, 0.37 mol), and potassium t-butoxide (412 mL of 1M solution in t-butanol)) with 5-octyl-2-(4-hydroxyphenyl)pyrimidine (45 g, 0. 162 mol). The crude product was further purified by recrystallization from heptane and subsequently dried in a vacuum oven (yield of 93.0 g).

reactant | 6-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromohexane | 0.155 mol, 1M, 412 mL, 85 g | FC(OC(C(OC(C(OC(COCCCCCCBr)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C13H14BrF13O4
reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 162 mol, 45 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
product | 5-Octy1-2-[4-(6-(2-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)hexyloxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCOCC(F)(F)OC(C(OC(C(OC(F)(F)F)(F)F)(F)F)(F)F)(F)F | C31H37F13N2O5
